US07098337B2
(4R,9aR)-6-(1-(RS)-Hydroxy-ethyl)-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester
A solution of 6.0 g (16.3 mmol) (4R,9aR)-6-bromo-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester in 250 ml diethyl ether was cooled to −100 deg C. and treated with 11.9 ml (17.9 mmol) tert-butyllithium (1.5 M in n-pentane). After 15 min, 1.0 ml (0.79 g, 17.9 mmol) acetaldehyde was added and the reaction was stirred for 40 min at the same temperature. After warming to −75 deg C. the reaction mixture was poured onto 10% aqueous ammonium chloride solution and extracted three times with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered and evaporated. The residue was chromatographed on silica gel (0.032–0.063 mm) with ethyl acetate:n-hexane (2:3) as eluant to afford a first batch of compound. The remaining product-containing fractions were pooled and chromatographed again to yield a second batch of compound (56.9% total).

reactant | (4R,9aR)-6-bromo-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 16.3 mmol, 6.0 g | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC=C(N=C3N2[C@@H](C1)C)Br | C16H22BrN3O2
reactant | tert-butyllithium | 17.9 mmol, 1.5 M, 11.9 ml | C(C)(C)(C)[Li]
reactant | acetaldehyde | 17.9 mmol, 1.0 ml, 0.79 g | C(C)=O | C2H4O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
product | (4R,9aR)-6-(1-(RS)-Hydroxy-ethyl)-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC=C(N=C3N2[C@@H](C1)C)C(C)O | C18H27N3O3
